US07199239B2
Intermediate 66: Ethyl {4-[(butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetate
A mixture of 4-chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine (0.229 g, 0.84 mmol), N,N-diisopropylethylamine (0.293 mL, 1.68 mmol) and ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate (0.35 g, 1.26 mmol) was heated at 100° C. in a sealed reactivial for 18 h. The reaction mixture was then allowed to come to room temperature, and the residue dissolved in CH2Cl2 (50 mL), the organic extract was washed water (20 mL) and passed through a hydrophobic frit then concentrated in vacuo. Purification by Biotage™ chromatography (Silica, 90 g) eluting with 1:19–1:9 EtOAc:cyclohexane afforded the title compound as a colourless oil (0.19 g).

reactant | 4-chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine | 0.84 mmol, 0.229 g | ClC1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
reactant | N,N-diisopropylethylamine | 1.68 mmol, 0.293 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate | 1.26 mmol, 0.35 g | C(CCC)NCC1=CC(=C(OCC(=O)OCC)C=C1)C | C16H25NO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl {4-[(butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetate | 0.19 g | C(CCC)N(C1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C28H32F3N3O3
